Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, insect bite
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of spinal stenosis and HTN presenting with 
fevers, chills and gait unsteadiness with rash in the setting of 
insect bite one week prior to admission.  
 Patient reports being bitten in his yard on his lateral left 
chest. Since that time, reports growing area of redness around 
the bite with positive fever (to 102), chills, fatigue and 
intermittent left shoulder pain. He was seen at ___ on 
___ and prescribed Keflex which he took 3 doses of however 
last night he started to have unsteadiness on his feet, holding 
onto objects to avoid falling and thus presented to the ED for 
evaluation.  
 
Past Medical History:
 Hypertension  
 BPH  
 Dupuytren's contracture  
 Cervical spondylosis  
 Chronic back pain  
 Spinal stenosis  
 H/o PE, previously on warfarin 
 
Social History:
___
Family History:
Father with history of heart failure. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
itals- 98.1 PO 167/80 78 18 99 RA  
 GENERAL: AOx3, NAD  
 HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. MMM, OP clear. 
Cut across bridge of nose, covered by band aid.  
 NECK: Supple, no JVD  
 CARDIAC: Irregular, ___ systolic murmur at RUSB. Chest with 
15cm x 8cm (vertical) erythematous rash with mild ttp, warmth 
and swelling. Demarcated with purple pen in ED without spread 
outside of border, small raised lesion on inferior portion of 
rash without evidence of skin breakdown  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales.  

 BACK: no CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema, Pulses DP 2+ 
bilaterally.  
 SKIN: See above, no other rashes noted  
 NEUROLOGIC: CN2-12 intact. ___ strength in bilateral lower 
extremities. Normal sensation. No dysmetria on heel-shin 
bilaterally, gait not tested overnight  

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 97.8143/87 76 16 97%RA
General: AAOx3, no acute distress. 
HEENT: NCT/AT. PERRL. EOMI. Abrasion and cut over the bridge of 
nose. 
NECK: Supple, no cervical lymphadenopathy. 
Cardiac: Irregularly irregular, ___ systolic murmur at right 
upper sternal border. 
Chest: There is a 15 x 8 cm erythema, outlined, warm, tender to 
palpation, extending past demarcation
Lungs: Clear to auscultation bilaterally, no 
wheezes/ronchi/rales 
Abdomen: Normal BS, NT/ND, no rebound/guarding. 
Extremities: No ___ edema, warm and well perfused 
Neurologic: CN II-XII grossly intact. gait deferred
 
Pertinent Results:
ADMISSION LABS:
===============

___ 12:10PM BLOOD WBC-8.5 RBC-4.94 Hgb-15.4 Hct-47.9 MCV-97 
MCH-31.2 MCHC-32.2 RDW-13.1 RDWSD-47.0* Plt ___
___ 12:10PM BLOOD Neuts-82.4* Lymphs-7.8* Monos-9.2 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-6.97* AbsLymp-0.66* 
AbsMono-0.78 AbsEos-0.00* AbsBaso-0.03
___ 12:10PM BLOOD Plt ___
___ 12:10PM BLOOD Glucose-109* UreaN-17 Creat-1.0 Na-133 
K-4.5 Cl-97 HCO3-24 AnGap-17
___ 12:10PM BLOOD cTropnT-<0.01
___ 12:10PM BLOOD TSH-0.91
___ 12:32PM BLOOD Lactate-2.1*
___ 02:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:10PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 02:10PM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 02:10PM URINE Mucous-RARE

MICROBIOLOGY:
=============
___ 8:20 am SEROLOGY/BLOOD      LYME ADDED TO ___. 

                            **FINAL REPORT ___

   LYME SEROLOGY (Final ___: 
      NO ANTIBODY TO B. BURGDORFERI DETECTED BY EIA. 
      Reference Range:  No antibody detected. 
      Negative results do not rule out B. burgdorferi infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody.  Patients with clinical 
history and/or
      symptoms suggestive of lyme disease should be retested in 
___ weeks.

___ 2:09 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

___ 3:45 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 4:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

DISCHARGE LABS:
===============
___ 07:45AM BLOOD WBC-6.6 RBC-4.59* Hgb-14.5 Hct-44.4 
MCV-97 MCH-31.6 MCHC-32.7 RDW-12.9 RDWSD-46.2 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-87 UreaN-22* Creat-1.0 Na-136 
K-5.0 Cl-100 HCO3-25 AnGap-16
___ 08:20AM BLOOD ALT-51* AST-50* AlkPhos-98 TotBili-0.8
___ 07:45AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.___ with history of spinal stenosis and HTN presenting with 
fevers, chills and gait unsteadiness with rash in the setting of 
insect bite one week prior to admission.  

# Left Chest Cellulitis. Upon presentation the patient was 
febrile and the L side of the chest wall had an erythematous 
warm area. This is a very atypical area to develop cellulitis, 
but the patient thinks he may have been bitten by an insect 
there. Insect bite would be unlikely given degree of cellulitis 
without central appearance. Lyme disease was also considered but 
there was no area of central clearing so this is not consistent 
with typical erythema multiforme. Blood cultures and IgM 
Lyme/IgG Lyme were sent off but had not returned by the time the 
patient was discharged. He was started empirically on 
ceftriaxone and his symptoms improved. Upon discharge he had 
been afebrile and the area of erythema was decreasing. Prior to 
discharge the patient was switched to PO doxycycline as this 
would cover both MRSA and Lyme disease. 

# Atrial Fibrillation: The patient is rate controlled and has a 
CHADS2Vasc=2 (HTN, age). The patient was not on anticoagulation, 
so he was started on Rivaroxaban, and his PCP ___ was 
informed and agreed. His PCP also would like him to get a TTE as 
an outpatient, and the patient was informed of this. 

# Fall. The patient fell prior to admission and reported 
unsteadiness in gait which was appreciated while he was in the 
hospital. CT head / trauma imaging was negative for any acute 
processes. There were no CNS lesions seen on imaging and hte 
patient had a normal neurological exam with no focality to 
indicate imaging of his back. The patient was found to have low 
B12 (182) so this could be a major contributing factor to his 
gait unsteadiness. He was given 1000mcg B12 prior to discharge 
and ___ recommended he use a cain. The patient was given a 
prescription for a cain and instructed to have his B12 rechecked 
as an outpatient. 

#Diarrhea. The patient reported having diarrhea after admission. 
This was most likely related an antibiotic side effect as his 
C.diff came back negative and he had no known exposures. 

Transitional Issues:
- B12 was low (182), may have contributed to fall and gait 
instability, was given 1000mcg B12 IM prior to discharge, but 
will need f/u B12 level as an outpatient
- Continue Doxycycline for 14d course for L chest wall 
cellulitis/possible lyme (titers pending at time of discharge)
- Cane Rx for 13mos per ___ recommendations
- Lyme titers pending
- Needs TTE as an outpatient
- Started on rivaroxaban on discharge for new diagnosis of Afib
- Code: Full
- Contact: Wife ___ ___ 
- trend diarrhea with antibiotic treatment. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 0.6 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
4. Cephalexin 500 mg PO Q8H 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*24 Capsule Refills:*0 
2.  Rivaroxaban 20 mg PO DINNER 
Daily with the evening meal. 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
4.  Colchicine 0.6 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.Straight Cane
ICD 10: ___ Unsteady Gait
Straight Cane
Prognosis: Good
Estimated duration of use: 13months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Cellulitis, New Atrial Fibrillation

Secondary: unsteady gait

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for a cellulitis on the L side of 
your chest. You were initially treated with an IV antibiotic 
called ceftriaxone. Your symptoms were improving so you were 
switched to an oral antibiotic called doxycycline. You will take 
the doxycycline until ___. 

You also had a recent fall, so ___ came to evaluate you. ___ 
recommended that you use a cane so you will be given a 
prescription for a cane on discharge from the hospital. Your 
Vitamin B12 level was also found to be low, which can cause you 
to be unsteady. You were given a B12 injection prior to 
discharge to help bring up your B12 level.

Your atrial fibrillation was also monitored while you were here. 
You will be given a prescription for an anticoagulation 
medication called rivaroxaban on discharge. In atrial 
fibrillation you are at an increased risk of forming clots, so 
the rivaroxaban will help stop you from forming clots and will 
help protect you against having a stroke. Your outpatient 
doctor, ___ also like you to get an echocardiogram 
to get a better image of your heart. This will be done as an 
outpatient.

The following medications were added or changed:
- Doxycycline
- Rivaroxaban 20mg at night

We wish you all the best!

-Your ___ Team
 
Followup Instructions:
___